US08530504B2
tert-Butyl(2,6-dimethylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate
To a dichloromethane (10 mL) solution of 2,6-dimethylpyrazolo[5,1-b][1,3]thiazole-7-amine (306 mg, 1.83 mmol) were added di-tert-butyl dicarbonate (439 mg, 2.01 mmol) and triethylamine (0.383 ml, 2.75 mmol), and the mixture was stirred at room temperature over one day and night. Water was added to the reaction mixture, a substance of interest was extracted with dichloromethane, and the organic layer was dried over anhydrous magnesium sulfate. The mixture was filtered to yield a filtrate, the solvent was distilled off under reduced pressure, and the residue was purified by medium pressure silica gel column chromatography (n-heptane/ethyl acetate: 1/1) to obtain the title compound (266 mg, 0.995 mmol).

reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | 2,6-dimethylpyrazolo[5,1-b][1,3]thiazole-7-amine | 1.83 mmol, 306 mg | CC1=CN2C(S1)=C(C(=N2)C)N | C7H9N3S
reactant | di-tert-butyl dicarbonate | 2.01 mmol, 439 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2.75 mmol, 0.383 ml | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | tert-Butyl(2,6-dimethylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate | 0.995 mmol, 266 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC(=C2)C)C)=O | C12H17N3O2S
